US07968538B2
t-Butyl 4-(3-(1-(3,5-dimethoxyphenyl)ethylamino)-4-nitrophenyl)piperazine-1-carboxylate
5-Fluoro-N-(1-(3,5-dimethoxyphenyl)ethyl)-2-nitrobenzenamine (762 mg, 2.4 mmol), t-butyl piperazine-1-carboxylate (443 mg, 2.4 mmol), N,N-diisopropylethylamine (614 mg, 4.8 mmol) were stirred at 80° C. in dry acetonitrile (50 mL) for 48 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and the crude compound was purified by silica chromatography using 25% ethyl acetate in hexanes to afford the title compound (469 mg, 41% yield). 1H NMR (400 MHz, CDCl3): δ 8.68 (s, 1H), 8.05 (d, 1H), 6.49 (s, 2H), 6.33 (s, 1H), 6.14 (d, 1H), 5.70 (s, 1H), 4.47 (m, 1H), 3.76 (s, 6H), 3.43 (m, 4H), 3.23 (m, 2H), 3.15 (m, 2H), 1.62 (d, 3H), 1.46 (s, 9H); MS (ESI) m/z: Calculated for C25H34N4O6: 486.25; Observed: 509.3 (M++Na).

reactant | 5-Fluoro-N-(1-(3,5-dimethoxyphenyl)ethyl)-2-nitrobenzenamine | 2.4 mmol, 762 mg | FC=1C=CC(=C(C1)NC(C)C1=CC(=CC(=C1)OC)OC)[N+](=O)[O-] | C16H17FN2O4
reactant | t-butyl piperazine-1-carboxylate | 2.4 mmol, 443 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N,N-diisopropylethylamine | 4.8 mmol, 614 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | t-Butyl 4-(3-(1-(3,5-dimethoxyphenyl)ethylamino)-4-nitrophenyl)piperazine-1-carboxylate | 469 mg, 41% yield | COC=1C=C(C=C(C1)OC)C(C)NC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C25H34N4O6
